US03933906
The starting material is prepared as follows: To the solution of 2.5 g of 4-(4-acetamidophenylamino)-3-amino-5-(4-acetamidophenylsulfamoyl)-benzoic acid in 60 ml of water and 5 ml of N potassium hydroxide, 0.7 g of 1-bromo-2-butene are added dropwise while stirring. The pH of the mixture is kept at 7.4 by subsequent addition of 4 N aqueous potassium hydroxide. After about 15 minutes the mixture is filtered, the filtrate acidified with glacial acetic acid to pH = 4, the precipitate formed filtered off and recrystallized from 50% aqueous ethanol, to yield the 4-(4-acetamidophenylamino)-3-but-2-enylamino-5-(4-acetamidophenylsulfamoyl)-benzoic acid melting at 265° with decomposition.

reactant | 4-(4-acetamidophenylamino)-3-amino-5-(4-acetamidophenylsulfamoyl)-benzoic acid | 2.5 g | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(NC1=CC=C(C=C1)NC(C)=O)(=O)=O)N | C23H23N5O6S
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-bromo-2-butene | 0.7 g | BrCC=CC | C4H7Br
reactant | potassium hydroxide | 4 N | [OH-].[K+]
solvent | water | 60 ml | O | H2O
product | 4-(4-acetamidophenylamino)-3-but-2-enylamino-5-(4-acetamidophenylsulfamoyl)-benzoic acid | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(NC1=CC=C(C=C1)NC(C)=O)(=O)=O)NCC=CC | C27H29N5O6S
